US05831094
N-TERT-BUTOXYCARBONYL-O-BENZYL-D-VALINOL
To a solution of N-tert-butoxycarbonyl-D-valinol (10 g, 49.3 mmol) and benzylbromide (5.86 ml, 49.3 mmol) in anhydrous dimethyl formamide (50 ml) was added at -5° C. and under nitrogen, potassium-tert-butoxide (11.06 g, 98.6 mmol) as a solid, portionwise, an in such a way that the internal temperature does not exceed +5° C. The reaction mixture was stirred for 2 hours at 0° C., diluted with ethyl acetate (2×300 ml), extracted with a 1N solution of potassium hydrogenosulfate (50 ml) and water (250 ml) and washed twice with water (2×200 ml). After drying of the organic phase on sodium sulfate, filtration and concentration in vacuo, the resulting oil was purified by flash chromatography (silica gel, ethyl acetate/petroleum ether: 1/9, Rf: 0.42) to give the title compound as a colorless oil (9.95 g, 69% yield).

reactant | N-tert-butoxycarbonyl-D-valinol | 49.3 mmol, 10 g | C(C)(C)(C)OC(=O)N[C@H](C(C)C)CO | C10H21NO3
reactant | benzylbromide | 49.3 mmol, 5.86 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium-tert-butoxide | 98.6 mmol, 11.06 g | CC(C)([O-])C.[K+]
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-TERT-BUTOXYCARBONYL-O-BENZYL-D-VALINOL | 9.95 g, 69% yield | C(C)(C)(C)OC(=O)N[C@H](C(C)C)COCC1=CC=CC=C1 | C17H27NO3
